US04235930
(5Z,13E)-(11R,15RS)-11,15-Dihydroxy-15-methyl-9-oxo-5,13-prostadien-18-ynoic Acid
500 mg. of (5Z,13E)-(11R,15RS)-15-methyl-9-oxo-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid is agitated for 16 hours at 20° with 15 ml. of a mixture of glacial acetic acid/water/THF (65/35/10), then evaporated under vacuum, and the remainder purified by column chromatography on silica gel. With methylene chloride/5% methanol, 260 mg. of the title compound is obtained in the form of an oil.

reactant | (5Z,13E)-(11R,15RS)-15-methyl-9-oxo-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid | CC(/C=C/[C@H]1[C@@H](CC([C@@H]1C\C=C/CCCC(=O)O)=O)OC1OCCCC1)(CCC#CC)OC1OCCCC1 | C31H46O7
solvent | acetic acid water THF | C(C)(=O)O.O.C1CCOC1
product | (5Z,13E)-(11R,15RS)-11,15-Dihydroxy-15-methyl-9-oxo-5,13-prostadien-18-ynoic Acid | O[C@@H]1CC([C@H](C\C=C/CCCC(=O)O)[C@H]1\C=C\C(CCC#CC)(C)O)=O | C21H30O5
